* /home/dey.nath2000/esim-workspace/xor_gate/xor_gate.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
* u4  net-_sc1-pad3_ net-_u3-pad1_ adc_bridge_1
* u5  net-_u3-pad2_ y dac_bridge_1
xsc1 b a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc3 a b net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc2 net-_sc1-pad3_ a net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc1-pad3_ y ? net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
v3 net-_sc2-pad3_ gnd  dc 5
v1  b gnd pulse(0 5 0.1m 0.1m 0.1m 2 4)
v2  a gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
* u2  a plot_v1
* u6  y plot_v1
* u1  b plot_v1
* s c m o d e
* u3  net-_u3-pad1_ net-_u3-pad2_ dwaraka_not
a1 [net-_sc1-pad3_ ] [net-_u3-pad1_ ] u4
a2 [net-_u3-pad2_ ] [y ] u5
a3 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dwaraka_not, NgSpice Name: dwaraka_not
.model u3 dwaraka_not(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(y)
plot v(b)
.endc
.end
